US04785017
To a solution of 0.3 g of racemic-3,4-dihydro-2,5,7,8-tetramethyl-6-(3-hydroxypropoxy)-2H-1-benzopyran-2-carboxylic acid methyl ester in 5 ml of anhydrous methylene chloride and 0.33 ml of triethylamine was added 0.17 ml of methanesulfonyl chloride. The mixture was stirred at room temperature for 45 minutes then treated with 1N sulfuric acid and worked-up with methylene chloride in the usual manner. There was obtained 0.461 g of racemic-3,4-dihydro-2,5,7,8-tetramethyl-6-(3-methanesulfonyloxypropoxy)-2H-1-benzopyran-2-carboxylic acid methyl ester as an oil which was used without further purification.

reactant | racemic-3,4-dihydro-2,5,7,8-tetramethyl-6-(3-hydroxypropoxy)-2H-1-benzopyran-2-carboxylic acid methyl ester | 0.3 g | COC(=O)C1(OC2=C(CC1)C(=C(C(=C2C)C)OCCCO)C)C | C18H26O5
reactant | methanesulfonyl chloride | 0.17 ml | CS(=O)(=O)Cl | CH3ClO2S
reactant | sulfuric acid | 1N | S(O)(O)(=O)=O | H2O4S
solvent | methylene chloride | 5 ml | C(Cl)Cl | CH2Cl2
solvent | triethylamine | 0.33 ml | C(C)N(CC)CC | C6H15N
product | racemic-3,4-dihydro-2,5,7,8-tetramethyl-6-(3-methanesulfonyloxypropoxy)-2H-1-benzopyran-2-carboxylic acid methyl ester | 0.461 g | COC(=O)C1(OC2=C(CC1)C(=C(C(=C2C)C)OCCCOS(=O)(=O)C)C)C | C19H28O7S
